US06774138B2
2-Bromo-1,3-thiazole (2.0 g, 12 mmol) and CuI (183 mg, 0.96 mmol) were combined in DME (30 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (8 mL, 60 mmol) and PdCl2(PPh3)2 (337 mg, 0.48 mmol) were added and 1-pentyne (979 mg, 14.4 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for 6 h at which time GC/MS analysis indicated that the reaction was not complete. Additional 1-pentyne (3.0 mL, 29 mmol) was added and the reaction was heated to 35° C. under a condenser. After heating for 16 h, GC/MS analysis indicated that the reaction was complete. The mixture was filtered through Celite™, and the filter pad was washed thoroughly with ethyl acetate. The combined filtrates were concentrated in vacuo and the residue was dissolved in ethyl acetate (300 mL), washed with water (300 mL), brine (300 mL), dried over Na2SO4 filtered, and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane, 99:1, then 97:3 hexane:ethyl acetate to 2-(1-pentynyl)-1,3-thiazole (820 mg, 44% yield) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.76 (d, J=3.0 Hz, 1H), 7.28 (d, J=3.0 Hz, 1H), 2.47-2.42 (m, 2H), 1.68-1.60 (m, 2H), 1.08-0.99 (m, 3H). MS (ESI) 151.6 (M+).

reactant | 2-Bromo-1,3-thiazole | 12 mmol, 2.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 60 mmol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | 1-pentyne | 14.4 mmol, 979 mg | C#CCCC | C5H8
reactant | 1-pentyne | 29 mmol, 3.0 mL | C#CCCC | C5H8
solvent | DME | 30 mL | COCCOC | C4H10O2
catalyst | CuI | 0.96 mmol, 183 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.48 mmol, 337 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(1-pentynyl)-1,3-thiazole | 820 mg, 44% yield | C(#CCCC)C=1SC=CN1 | C8H9NS
